US09371282B2
N-[1-(3-Bromo-pyridin-2-yl)-methylidene]-N′-methyl-hydrazine (5.7 g, 26.63 mmol), copper (I) iodide (507 mg, 2.66 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (76 mg, 0.533 mmol) and potassium carbonate (7.36 g, 53.25 mmol) are suspended in 1-methyl-2-pyrrolidinone (20 mL) and heated at 120° C. for 3 h. The mixture is diluted with saturated ammonium chloride solution and ethyl acetate. The resulting emulsion is filtered, the phases separated and the organic phase washed with brine, dried and volatiles evaporated under reduced pressure. The residue is redissolved in ethyl ether, washed with brine and the solvent removed. The residue is purified by flash chromatography (0-60% EtOAc in cyclohexane) to give 1-methyl-1H-pyrazolo[4,3-b]pyridine (580 mg, content 85%, 14%)

reactant | N-[1-(3-Bromo-pyridin-2-yl)-methylidene]-N′-methyl-hydrazine | 26.63 mmol, 5.7 g | BrC=1C(=NC=CC1)C=NNC | C7H8BrN3
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.533 mmol, 76 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium carbonate | 53.25 mmol, 7.36 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methyl-2-pyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 2.66 mmol, 507 mg | [Cu]I
product | 1-methyl-1H-pyrazolo[4,3-b]pyridine | 580 mg | CN1N=CC2=NC=CC=C21 | C7H7N3
